US07612075B2
C. 1,7-Dichloro-3-methyl-isoquinoline.
A solution of 7-chloro-3-methyl-2H-isoquinoline-1-one (7.1 g, 36.7 mmol) in 100 mL of phosporous oxychloride is heated to 100° C. After 5 h, the solution is concentrated to dryness. The residue is dissolved in CH2Cl2. The solution is washed with H2O. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 3% EtOAc/hexanes to 5% EtOAc/hexanes. The title compound is obtained as a white solid (6.0 g, 28 mmol). 1H NMR (CDCl3, 300 MHz) δ8.23 (s, 1H), 7.68 (m, 1H), 7.63 (m, 1H), 7.40 (s, 1H), 2.64 (s, 3H).

reactant | 7-chloro-3-methyl-2H-isoquinoline-1-one | 36.7 mmol, 7.1 g | ClC1=CC=C2C=C(NC(C2=C1)=O)C | C10H8ClNO
reactant | oxychloride | 100 mL | O(Cl)Cl | Cl2O
product | 1,7-Dichloro-3-methyl-isoquinoline | ClC1=NC(=CC2=CC=C(C=C12)Cl)C | C10H7Cl2N
